US07091228B2
N-(4-Bromophenyl)-5-methyl-1,3-benzoxazol-2-amine (76.70 mg, 0.25 mmol) and trans-2-(trimethylsilyl)ethyl-2-(4-bromobenzoyl)cyclohexanecarboxylate (105.45 mg, 0.23 mmol) were combined in a clean dry flask under argon. Toluene (25 mL), EtOH (8 mL), and saturated aqueous NaHCO3 (5 mL) were added, and the resulting solution was degassed by bubbling with argon for 30 minutes. Then, [1,1′-bis(diphenylphosphino)-ferrocene]dichloro palladium(II), 1:1 complex with dichloromethane (18.78 mg, 0.02 mmol) was added, and the resulting mixture was heated at 90° C. for 16 h. The reaction mixture was then diluted with EtOAc and passed through a Celite® pad, and the solvent was removed by rotary evaporation. Silica gel chromatography (Biotage cartridge), eluting with 25% EtOAc in hexane gave trans-2-(trimethylsilyl)ethyl-2-({4′-[(5-methyl-1,3-benzoxazol-2-yl)amino]biphenyl-4-yl}carbonyl)cyclohexanecarboxylate (64 mg, 50%). 1H NMR (400 MHz, CD2Cl2) δ−0.013 (s, 9H), 0.88 (m, 2H), 1.41 (m, 3H), 1.71˜2.15 (m, 5H), 2.44 (s, 3H), 2.73 (m, 1H), 3.88 (m, 1H), 4.08 (m, 2H), 7.08 (d, 1H), 7.21 (s, 1H), 7.33 (d, 1H), 7.67 (m, 2H), 7.69 (m, 2H), 7.73 (m, 2H), 7.89 (m, 1H), 7.91 (m, 1H).

reactant | N-(4-Bromophenyl)-5-methyl-1,3-benzoxazol-2-amine | 0.25 mmol, 76.70 mg | BrC1=CC=C(C=C1)NC=1OC2=C(N1)C=C(C=C2)C | C14H11BrN2O
reactant | trans-2-(trimethylsilyl)ethyl-2-(4-bromobenzoyl)cyclohexanecarboxylate | 0.23 mmol, 105.45 mg | C[Si](CCOC(=O)[C@H]1[C@@H](CCCC1)C(C1=CC=C(C=C1)Br)=O)(C)C | C19H27BrO3Si
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
reactant | dichloromethane | 0.02 mmol, 18.78 mg | ClCCl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)-ferrocene]dichloro palladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | EtOH | 8 mL | CCO | C2H6O
solvent | Toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | trans-2-(trimethylsilyl)ethyl-2-({4′-[(5-methyl-1,3-benzoxazol-2-yl)amino]biphenyl-4-yl}carbonyl)cyclohexanecarboxylate | 64 mg, 50% | C[Si](CCOC(=O)[C@H]1[C@@H](CCCC1)C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC=1OC2=C(N1)C=C(C=C2)C)(C)C | C33H38N2O4Si
